US09255074B2
Preparation of 6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl 1,1,2,2,2-pentafluoroethanesulfonate (Compound (5d))
To a stirred solution of 10.0 g of 1-(3-tert-butyl-5-(6-hydroxynaphthalen-2-yl)-4-methoxyphenyl)pyrimidine-2,4(1H,3H)-dione (23.5 mmol, 1.0 equivalent) in 100 mL of N,N-dimethylformamide was added 6.5 g of 325-mesh potassium carbonate (47 mmol, 2.0 equivalents). 1,1,2,2,2-pentafluoroethanesulfonyl fluoride (4 g, 20 mmol, 0.85 equivalents) was bubbled sub-surface into the reaction mixture over 3 hours, and the mixture was stirred for 0.5 hours. The inorganic solids were separated by filtration, and the flask and filter cake were rinsed with 5 mL of N,N-dimethylformamide. The solution was diluted with 24 mL of water and 150 mL of ethyl acetate and the resultant solution was washed four times with 50 mL portions of 10 wt % aqueous sodium chloride, followed by 25 mL of saturated aqueous sodium chloride solution. The organic solution was dried over sodium sulfate, the drying agent was filtered off and the organic solution was concentrated in vacuo. The resultant solid was purified by chromatography over silica gel with gradient elution (40% ethyl acetate/hexanes to 60% ethyl acetate/hexanes). The desired product was dissolved in 10 mL of ethyl acetate and 200 mL of heptanes was added over 60 minutes. The product crystallized and was isolated by filtration. The wet cake was washed with 40 mL of heptanes and dried in vacuo with heating at 50° C. The title compound was isolated as a white solid (9.4 g, 67% yield). 1H NMR (600 MHz, CDCl3) δ ppm 8.60 (d, J=0.5 Hz, 1H), 8.06 (d, J=0.8 Hz, 1H), 7.97 (d, J=9.1 Hz, 1H), 7.94 (d, J=8.7 Hz, 1H), 7.84 (dd, J=8.5, 1.7 Hz, 1H), 7.80 (d; J=2.5 Hz, 1H), 7.42 (dd, J=9.0, 2.5 Hz, 1H), 7.37 (d, J=8.0 Hz, 1H), 7.27-7.26 (m, 2H), 5.82 (dd, J=8.0, 2.3 Hz, 1H), 3.30 (s, 3H), 1.46 (s, 9H). 13C NMR (101 MHz, CDCl3) δ ppm 162.6 (C), 157.5 (C), 149.8 (C), 147.1 (C), 145.0 (C), 144.5 (CH), 137.2 (C), 135.1 (C), 133.0 (C), 132.23 (C), 132.18 (C), 130.5 (CH), 128.5 (CH), 128.1 (CH), 127.4 (CH), 127.2 (CH), 124.4 (CH), 119.9 (CH), 118.9 (CH), 102.4 (CH), 61.0 (CH3), 35.8 (C), 30.8 (CH3). 19F NMR (564 MHz, CDCl3) δ ppm −79.1 (3F), −113.4 (2F). LC-MS m/z 599.1 [M+H]+.

reactant | 1-(3-tert-butyl-5-(6-hydroxynaphthalen-2-yl)-4-methoxyphenyl)pyrimidine-2,4(1H,3H)-dione | 23.5 mmol, 10.0 g, 1.0 equivalent | C(C)(C)(C)C=1C=C(C=C(C1OC)C1=CC2=CC=C(C=C2C=C1)O)N1C(NC(C=C1)=O)=O | C25H24N2O4
reactant | potassium carbonate | 47 mmol, 6.5 g, 2.0 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,2,2,2-pentafluoroethanesulfonyl fluoride | 20 mmol, 4 g, 0.85 equivalents | FC(C(F)(F)F)(S(=O)(=O)F)F | C2F6O2S
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl 1,1,2,2,2-pentafluoroethanesulfonate | FC(C(F)(F)F)(S(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C1=C(C(=CC(=C1)N1C(NC(C=C1)=O)=O)C(C)(C)C)OC)F | C27H23F5N2O6S
